US06358972B1
5-(3,5-Di(trifluoromethyl)phenyl)-3-(1-Methylpiperidin-4-yl)-4-Aza-1H-Indole
O-Trifluoromethanesulfonyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-4-aza-1H-indole (160 mg, 0.441 mmol) and 3,5-di(trifluoromethyl)phenylboronic acid (183 mg, 0.71 mmol) were converted to 171 mg of the title compound by the procedure of Example 3. (91%). MS(FD) m/e 427.6 (M+). EA calculated for C21H19F6N3: C, 59.02; H, 4.45; N, 9.84. Found: C, 59.31; H, 4.69; N, 9.83.

reactant | O-Trifluoromethanesulfonyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-4-aza-1H-indole | 0.441 mmol, 160 mg | FC(S(=O)(=O)OC=1N=C2C(=CNC2=CC1)C1CCN(CC1)C)(F)F | C14H16F3N3O3S
reactant | 3,5-di(trifluoromethyl)phenylboronic acid | 0.71 mmol, 183 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
product | 5-(3,5-Di(trifluoromethyl)phenyl)-3-(1-Methylpiperidin-4-yl)-4-Aza-1H-Indole | 171 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1N=C2C(=CNC2=CC1)C1CCN(CC1)C)(F)F | C21H19F6N3
